### PR TITLE
[Dijkstra] Change SNAP invocation in EPOCH to after ledger state update

### PR DESCRIPTION
**Pull request by carlostome**
# Description

This PR changes the order of updates in the EPOCH rule wrt snapshotting. In particular, the snap shot is moved to the end of the rule after the ledger state has been updated. In addition, the stake distribution used in RATIFY uses the updated ledger state.

- Inline `StakeDistrs` record into RatifyEnv
- Fix computational instance
- Add prose explaining this change

Follows changes in `cardano-ledger` by https://github.com/IntersectMBO/cardano-ledger/pull/5986

# Checklist

- [x] Commit sequence broadly makes sense and commits have useful messages
- [ ] Any semantic changes to the specifications are documented in `CHANGELOG.md`
- [ ] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [x] Self-reviewed the diff

### CODE REVIEW

File: src/Ledger/Dijkstra/Specification/Rewards/Properties/Computational.lagda.md [hunk 1]
```diff
@@ -7,7 +7,6 @@ source_path: src/Ledger/Dijkstra/Specification/Rewards/Properties/Computational.
 
 This module proves that the `SNAP`{.AgdaDatatype} transition rule is computational.
 
-<!--
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Rewards/Properties/Computational.lagda.md:10]: I suggest adding the hidden block tags back in, opening (`<!--`) around lines 9 or 10 and closing (`-->`) around line 27.

File: src/Ledger/Dijkstra/Specification/Rewards/Properties/Computational.lagda.md [hunk 2]
```diff
@@ -25,21 +24,21 @@ open import Ledger.Dijkstra.Specification.Rewards txs abs
...
 
-  SNAP-deterministic : ∀ {ss' ss''}
-                     → lstate ⊢ ss ⇀⦇ tt ,SNAP⦈ ss'
-                     → lstate ⊢ ss ⇀⦇ tt ,SNAP⦈ ss'' → ss' ≡ ss''
-  SNAP-deterministic SNAP SNAP = refl
+  SNAP-deterministic : ∀ {ls ls' ss' ss''}
+                     → ls ≡ ls'
+                     → ls ⊢ ss ⇀⦇ tt ,SNAP⦈ ss'
+                     → ls' ⊢ ss ⇀⦇ tt ,SNAP⦈ ss'' → ss' ≡ ss''
+  SNAP-deterministic refl SNAP SNAP = refl
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Rewards/Properties/Computational.lagda.md]: `SNAP-deterministic` now takes an `ls ≡ ls'` premise.  Elsewhere that shape carries the `-≡` suffix and the plain name is reserved for the homogeneous lemma.  Perhaps we should keep the homogeneous one inside the `{lstate}` module and derive the other from it; this typechecks:

```agda
    SNAP-deterministic : ∀ {ss' ss''}
                       → lstate ⊢ ss ⇀⦇ tt ,SNAP⦈ ss'
                       → lstate ⊢ ss ⇀⦇ tt ,SNAP⦈ ss'' → ss' ≡ ss''
    SNAP-deterministic SNAP SNAP = refl

  SNAP-deterministic-≡ : ∀ {ls ls' ss' ss''}
                       → ls ≡ ls'
                       → ls  ⊢ ss ⇀⦇ tt ,SNAP⦈ ss'
                       → ls' ⊢ ss ⇀⦇ tt ,SNAP⦈ ss'' → ss' ≡ ss''
  SNAP-deterministic-≡ refl = SNAP-deterministic
```

File: src/Ledger/Dijkstra/Specification/Epoch/Properties/Computational.lagda.md [hunk 3]
```diff
@@ -86,17 +83,37 @@ module _ {eps : EpochState} {e : Epoch} where
...
+         mkΓ : Snapshots → Post-POOLREAP-Update → LedgerState → RatifyEnv
+         mkΓ ss'' pPR ls'' =
+           ⟦ calculateVDelegDelegatedStake e pPRUpd.utxoSt' govSt' pPRUpd.gState' (Post-POOLREAP-Update.dState'' pPR)
+           , calculatePoolDelegatedStakeForVoting (Snapshots.mark ss'') govSt'
+           , e
+           , DRepsOf ls''
+           , CCHotKeysOf ls''
+           , TreasuryOf (Post-POOLREAP-Update.acnt'' pPR)
+           , PoolsOf ls''
+           , VoteDelegsOf ls'' ⟧
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Epoch/Properties/Computational.lagda.md:111]: `mkΓ` re-spells out the whole `Γ` from the rule, so the environment now exists twice and any future change has to be made in both places; `mkStakeDistrs` used to be the shared name that prevented this.

Should we have a builder in `Epoch.lagda.md`, just before the data declaration, taking exactly the three things that change at the boundary?

```agda
mkRatifyEnv : Epoch → Snapshots → Acnt → LedgerState → RatifyEnv
mkRatifyEnv e ss acnt ls =
  ⟦ calculateVDelegDelegatedStake e (UTxOStateOf ls) (GovStateOf ls) (GStateOf ls) (DStateOf ls)
  , calculatePoolDelegatedStakeForVoting (Snapshots.mark ss) (GovStateOf ls)
  , e
  , DRepsOf ls
  , CCHotKeysOf ls
  , TreasuryOf acnt
  , PoolsOf ls
  , VoteDelegsOf ls ⟧
```

The rule then reads `Γ = mkRatifyEnv e ss' acnt'' ls'`, which states the point of this PR in one line, and the proof shrinks to the following:

```agda
         Γ≡Γ' : mkRatifyEnv e ss'₁ pPRUpd₁.acnt'' ls'₁ ≡ mkRatifyEnv e ss'₂ pPRUpd₂.acnt'' ls'₂
         Γ≡Γ' = trans (cong₂ (λ ss acnt → mkRatifyEnv e ss acnt ls'₁) ss'₁≡ss'₂
                             (cong Post-POOLREAP-Update.acnt'' pPRUpd₁≡pPRUpd₂))
                      (cong (mkRatifyEnv e ss'₂ pPRUpd₂.acnt'') ls'₁≡ls'₂)
```

Both files typecheck with this.  A rewrite version fails because `ls'₁` reduces away in the goal, so the `cong` form is the one to use.

File: src/Ledger/Dijkstra/Specification/Epoch.lagda.md [hunk 4]
```diff
@@ -743,10 +728,15 @@ and carries out the following tasks:
...
-+  Apply the resulting enact state from the previous epoch boundary
-   `fut`{.AgdaBound} and store the resulting enact state
++  apply the resulting enact state from the previous epoch boundary
+   `fut`{.AgdaBound} and store the new enact state
    `fut’`{.AgdaBound}.
 
+In Dijkstra, the `EPOCH` rule invokes the `SNAP`{.AgdaDatatype} rule
+_after_ updating ledger state. This change affects the stake
+distribution used for leader election and distributing rewards, and
+for voting on governance actions.
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Epoch.lagda.md]:
```suggestion
In Dijkstra the EPOCH{.AgdaDatatype} rule invokes SNAP{.AgdaDatatype} _after_ the ledger state is updated.  The stake distribution used for leader election and rewards, and the stake distributions used for voting on governance actions, are all computed from the updated ledger state.
```

**Review by williamdemeo — APPROVED** [review]
Nice work, Carlos.  Just a few minor suggestions for you to take or leave.

File: src/Ledger/Dijkstra/Specification/Epoch/Properties/Computational.lagda.md (hunk 3 above)
Comment (carlostome) [reply src/Ledger/Dijkstra/Specification/Epoch/Properties/Computational.lagda.md:111]: The current approach seems clearer for someone trying to understand the rule, even if it's at the expense of a bit of repetition in the computational instance.
